US04816458
2,3-Dihydro-1,3-dimethyl-9-(4-fluorobenzyl)-6-hydroxy-7-(3-methyl-2-butenyl)-pyrimido[2-1-f]purine-4,8(1H,9H)dione
Dissolve 1.48 g (0.0644 mole) of sodium metal in 450 ml of ethanol (2B; anhydrous). Add 23.0 g (0.0644 mole) of 2,3-dihydro-1,3-dimethyl-9-(4-fluorobenzyl)-6-hydroxy-pyrimido[2,1-f]purine-4,8(1H,9H)-dione. Stir the resultant suspension under a nitrogen atmosphere for 0.5 hour, then add 9.60 g (0.0644 mole) of 1-bromo-3-methyl-2-butene. Stir the mixture at room temperature for 90 hours under a nitrogen atmosphere. Filter off the white solids, and remove solvent from the filtrate under reduced pressure. Dissolve the residue in 150 ml of chloroform, add 125 ml of 3N hydrochloric acid and shake the mixture. Separate the layers, and extract the aqueous phase with two 50-ml volumes of chloroform. Dry the combined extracts over anhydrous magnesium sulfate, filter off the drying agent, and remove solvent from the filtrate under reduced pressure. Chromatograph the residual glassy solid on silica gel, eluting with ethyl acetate(3)-hexanes(1). Triturate the product thus obtained with hexane (125 ml per gram) and filter to obtain the title compound as a solid (mp 188°-188.5° C.).

reactant | sodium | 0.0644 mole, 1.48 g | [Na] | Na
reactant | 2,3-dihydro-1,3-dimethyl-9-(4-fluorobenzyl)-6-hydroxy-pyrimido[2,1-f]purine-4,8(1H,9H)-dione | 0.0644 mole, 23.0 g | CN1CN(C(C=2N3C(=NC12)N(C(C=C3O)=O)CC3=CC=C(C=C3)F)=O)C | C17H16FN5O3
reactant | 1-bromo-3-methyl-2-butene | 0.0644 mole, 9.60 g | BrCC=C(C)C | C5H9Br
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | 2,3-Dihydro-1,3-dimethyl-9-(4-fluorobenzyl)-6-hydroxy-7-(3-methyl-2-butenyl)-pyrimido[2-1-f]purine-4,8(1H,9H)dione | CN1CN(C(C=2N3C(=NC12)N(C(C(=C3O)CC=C(C)C)=O)CC3=CC=C(C=C3)F)=O)C | C22H24FN5O3
